US05498741
Preparation of monoethyl monophenyl 4-methoxyphenylphosphonite
113 g (0.496 mol) of diethyl 4-methoxyphenylphosphonite and 46.6 g (0.496 mol) of phenol were mixed and heated with stirring to 110° C. at 350-400 mbar. Ethanol distilled off during this via a small column. The temperature was then increased stepwise to 150° C., and the vacuum was simultaneously increased to 100 mbar. After completion of the reaction, the batch was cooled and distilled. 105 g were obtained having a boiling point of 159° C. at 0.4 mbar. The yield was thus 77% of theory.

reactant | diethyl 4-methoxyphenylphosphonite | 0.496 mol, 113 g | COC1=CC=C(C=C1)P(OCC)OCC | C11H17O3P
reactant | phenol | 0.496 mol, 46.6 g | C1(=CC=CC=C1)O | C6H6O
product | monoethyl monophenyl 4-methoxyphenylphosphonite | COC1=CC=C(C=C1)P(OCC)OC1=CC=CC=C1 | C15H17O3P
